* C:\Users\Bertrand\Documents\LTSpice\LTSpice\unidirectional follower\diode_follower.asc
V1 IN 0 SINE(0 2.5 1k)
V2 Vdd 0 -9
V3 Vcc 0 +9
XU1 IN OUT_TL072 Vcc Vdd INT2 level2 Avol=1Meg GBW=10Meg Slew=13Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
D1 INT2 OUT_TL072 D
XU2 IN OUT_LM358 Vcc Vdd INT1 level2 Avol=1Meg GBW=10Meg Slew=0.3Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
D2 INT1 OUT_LM358 D
.model D D
.lib C:\Users\Bertrand\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 10m
* 0.3V/µs
* 13V/µs
.lib UniversalOpAmp2.lib
.backanno
.end
